US07662811B2
A solution of (R)-1-(6-azido-3,4,6,7,8,9-hexahydrobenzo[g]-isoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone (972 mg, 3.0 mmol) and NaOH (240 mg, 6 mmol) in 21 mL of THF/MeOH/H2O (10/10/1) was stirred at RT for 5 h. The solvent was evaporated and the residue was submitted to flash chomatograph (SiO2, EtOAc/MeOH=100:10 to 100:20 to 100:30) to give (R)-6-azido-1,2,3,4,6,7,8,9-octahydrobenzo[g]isoquinoline as a colorless oil.

reactant | (R)-1-(6-azido-3,4,6,7,8,9-hexahydrobenzo[g]-isoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone | 3.0 mmol, 972 mg | N(=[N+]=[N-])[C@@H]1CCCC2=C1C=C1CCN(CC1=C2)C(C(F)(F)F)=O | C15H15F3N4O
reactant | NaOH | 6 mmol, 240 mg | [OH-].[Na+]
solvent | THF MeOH H2O | 21 mL | C1CCOC1.CO.O
product | (R)-6-azido-1,2,3,4,6,7,8,9-octahydrobenzo[g]isoquinoline | N(=[N+]=[N-])[C@@H]1CCCC2=C1C=C1CCNCC1=C2 | C13H16N4
